* File: inv.pex.netlist.pex
* Created: Wed May 23 17:29:50 2018
* Program "Calibre xRC"
* Version "v2017.4_19.14"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_INV%VIN 4 8 17
c0 14 0 0.118079f
c1 12 0 0.0571243f
c2 8 0 0.281204f
c3 4 0 0.31292f
r4 12 17 0.0241111
r5 11 14 6.03191
r6 11 12 13.2552
r7 6 14 4.73303
r8 6 8 112
r9 2 14 4.73303
r10 2 4 121.25
.ends

.subckt PM_INV%GND! 6 35 50
c0 38 0 0.181976f
c1 33 0 0.00699972f
r2 37 38 16.3327
r3 35 37 4.59
r4 32 33 16.3327
r5 30 33 0.156279
r6 30 50 0.114767
r7 29 32 18.383
r8 29 30 5.44423
r9 27 50 0.119651
r10 26 29 27.5745
r11 26 27 5.44423
r12 24 27 0.234419
r13 23 26 27.5745
r14 23 24 5.44423
r15 19 24 0.234419
r16 18 19 5.44423
r17 15 18 27.5553
r18 15 16 8.16635
r19 13 16 0.156279
r20 12 15 18.383
r21 12 13 5.44423
r22 9 13 0.234419
r23 8 12 27.5745
r24 8 9 5.44423
r25 6 23 18.383
r26 6 18 9.19149
r27 4 16 0.0755349
r28 4 5 0.0273073
r29 3 19 0.0952326
r30 3 5 0.0273073
r31 2 38 0.354667
r32 2 5 0.00973347
.ends

.subckt PM_INV%VDD! 6 7 42
c0 34 0 0.0080775f
c1 10 0 0.211607f
r2 33 34 8.16635
r3 31 34 0.156279
r4 30 33 18.383
r5 30 31 5.44423
r6 28 31 0.234419
r7 28 42 0.0366279
r8 27 30 27.5745
r9 27 28 5.44423
r10 24 42 0.197791
r11 20 21 8.16635
r12 18 21 0.156279
r13 17 20 18.383
r14 17 18 5.44423
r15 14 18 0.234419
r16 13 17 27.5745
r17 13 14 5.44423
r18 9 10 8.16635
r19 7 9 2.295
r20 6 27 27.5745
r21 6 20 27.5553
r22 6 24 5.44423
r23 4 21 0.0804186
r24 4 5 0.0273073
r25 3 24 0.0903488
r26 3 5 0.0273073
r27 2 10 0.402051
r28 2 5 0.00973347
.ends

.subckt PM_INV%VOUT 2 7 15
c0 10 0 0.578583f
r1 10 15 0.425205
r2 9 10 16.3327
r3 7 9 4.59
r4 5 15 0.453205
r5 4 5 8.16635
r6 2 4 2.295
.ends

