* File: nand.pex.netlist.pex
* Created: Fri May 18 17:19:54 2018
* Program "Calibre xRC"
* Version "v2017.4_19.14"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_NAND%X 9 13 17
c0 15 0 0.0369101f
c1 13 0 0.183148f
c2 9 0 0.130297f
c3 5 0 0.101693f
c4 2 0 0.150198f
r5 11 15 8.33584
r6 11 13 70.5
r7 7 15 8.33584
r8 7 9 46.5
r9 5 17 0.068
r10 4 5 13.2552
r11 2 15 1.53246
r12 2 4 9.66226
.ends

.subckt PM_NAND%GND! 4 23 38
c0 38 0 0.0456411f
c1 30 0 0.00805882f
c2 26 0 0.0545495f
c3 3 0 0.116583f
r4 25 26 16.3327
r5 23 25 4.572
r6 21 38 0.0447674
r7 20 21 16.3327
r8 18 21 0.156279
r9 17 20 18.383
r10 17 18 5.44423
r11 14 18 0.234419
r12 14 33 0.127791
r13 11 30 0.0267115
r14 11 33 0.0267115
r15 10 11 16.3327
r16 7 30 0.122744
r17 6 10 18.383
r18 6 7 5.44423
r19 4 17 27.5745
r20 4 10 18.3638
r21 4 14 5.44423
r22 3 26 0.0351795
r23 2 11 0.0102777
r24 2 3 0.276316
.ends

.subckt PM_NAND%3 4 9
c0 18 0 0.0552044f
c1 16 0 0.0552061f
c2 12 0 0.0734769f
r3 16 18 0.0854545
r4 12 18 0.035
r5 11 12 16.3327
r6 9 11 4.59
r7 7 16 0.035
r8 6 7 16.3327
r9 4 6 4.59
.ends

.subckt PM_NAND%Y 4 10 21
c0 21 0 0.10697f
c1 18 0 0.103847f
c2 17 0 0.0491543f
c3 16 0 0.038941f
c4 13 0 0.205579f
c5 4 0 0.171572f
r6 17 18 2.43243
r7 13 21 13.2552
r8 11 16 1.61877
r9 11 13 14.6757
r10 10 18 32.5
r11 6 16 8.56897
r12 6 17 22
r13 2 16 8.56897
r14 2 4 58.75
.ends

.subckt PM_NAND%VOUT 9 10 15 20
c0 29 0 0.251418f
c1 23 0 0.0465677f
c2 7 0 0.0987965f
c3 5 0 0.0591704f
c4 4 0 0.0809873f
c5 3 0 0.149107f
r6 23 27 0.0348205
r7 22 23 16.3327
r8 20 22 4.59
r9 18 29 0.0346796
r10 17 18 8.16635
r11 15 17 2.295
r12 13 29 0.0345995
r13 12 13 8.16635
r14 10 12 2.295
r15 7 9 0.0178978
r16 7 27 0.0847368
r17 4 9 0.0216598
r18 4 5 0.154444
r19 3 29 0.0247527
r20 2 5 0.0412345
r21 2 3 0.215158
.ends

.subckt PM_NAND%VDD! 10 15 16 21
c0 47 0 0.0393817f
c1 44 0 0.00698562f
c2 19 0 0.07746f
c3 14 0 0.0187606f
c4 13 0 0.0185467f
c5 10 0 0.00683409f
c6 7 0 0.0699581f
c7 5 0 0.0437112f
c8 4 0 0.0396f
c9 3 0 0.069873f
r10 42 47 0.0273073
r11 41 42 8.16635
r12 39 47 0.0244186
r13 38 41 9.19149
r14 38 39 16.3327
r15 35 39 0.156279
r16 35 48 0.122093
r17 32 44 0.02701
r18 32 48 0.02701
r19 31 32 16.3327
r20 28 44 0.127628
r21 27 31 18.383
r22 27 28 8.16635
r23 23 24 8.16635
r24 21 23 2.295
r25 18 19 8.16635
r26 16 18 2.286
r27 15 38 18.383
r28 15 31 18.3638
r29 15 35 5.44423
r30 12 19 0.0861538
r31 12 13 0.035
r32 8 42 0.0273073
r33 8 10 0.102558
r34 7 42 0.00973347
r35 7 14 0.192051
r36 5 14 0.0349114
r37 4 24 0.00301266
r38 4 5 0.0816962
r39 3 32 0.0100036
r40 3 13 0.194545
.ends

