* File: nor.pex.netlist.pex
* Created: Fri May 18 21:25:56 2018
* Program "Calibre xRC"
* Version "v2017.4_19.14"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_NOR%X 4 8 12
c0 21 0 0.0925908f
c1 18 0 0.105982f
c2 16 0 0.0228973f
c3 12 0 0.475194f
c4 8 0 0.388097f
r5 16 21 0.0351556
r6 15 18 5.62979
r7 15 16 13.2552
r8 10 18 4.73303
r9 10 12 206.5
r10 6 18 4.73303
r11 6 8 161.5
r12 4 21 0.123908
.ends

.subckt PM_NOR%VDD! 6 7 28
c0 28 0 0.523811f
c1 10 0 0.166636f
c2 5 0 0.0242711f
c3 4 0 0.294387f
r4 22 28 0.0851411
r5 21 22 5.44423
r6 18 22 0.0631536
r7 13 14 5.44423
r8 9 10 8.16635
r9 7 9 2.286
r10 6 21 27.5553
r11 6 13 27.5745
r12 6 18 5.44423
r13 4 14 0.0148777
r14 4 5 0.00822578
r15 3 18 0.0312038
r16 3 5 0.00822578
r17 2 10 0.314103
r18 2 5 0.0382758
.ends

.subckt PM_NOR%3 2 7
c0 10 0 0.256694f
r1 9 10 8.16635
r2 7 9 2.286
r3 5 10 0.0695977
r4 4 5 8.16635
r5 2 4 2.304
.ends

.subckt PM_NOR%Y 4 8 12
c0 22 0 0.0429565f
c1 17 0 0.106752f
c2 12 0 0.720861f
c3 8 0 0.202853f
c4 4 0 0.109281f
r5 18 22 0.035
r6 17 18 13.2552
r7 14 17 5.74468
r8 10 14 4.73303
r9 10 12 289.5
r10 6 14 4.73303
r11 6 8 78.5
r12 4 22 0.143182
.ends

.subckt PM_NOR%GND! 10 30 35 51
c0 51 0 0.336257f
c1 38 0 0.145889f
c2 33 0 0.135625f
c3 9 0 0.0240371f
c4 8 0 0.196001f
c5 5 0 0.0240371f
c6 4 0 0.348644f
r7 37 38 16.3327
r8 35 37 4.59
r9 32 33 16.3327
r10 30 32 4.572
r11 28 51 0.0653185
r12 27 28 8.16635
r13 25 28 0.0428025
r14 24 27 18.383
r15 24 25 5.44423
r16 21 24 27.5553
r17 21 22 5.44423
r18 16 17 5.44423
r19 13 17 0.0642038
r20 12 16 27.5745
r21 12 13 5.44423
r22 10 21 4.5383
r23 10 16 23.0362
r24 8 22 0.0382994
r25 8 9 0.00835142
r26 7 25 0.00847134
r27 7 9 0.00835142
r28 6 38 0.298128
r29 6 9 0.0379256
r30 4 17 0.00240764
r31 4 5 0.00835142
r32 3 22 0.0444076
r33 3 5 0.00835142
r34 2 33 0.298128
r35 2 5 0.0379256
.ends

.subckt PM_NOR%VOUT 12 16 21 26
c0 29 0 0.0531926f
c1 19 0 0.397485f
c2 12 0 0.228379f
c3 6 0 0.0213138f
c4 5 0 0.0523088f
c5 3 0 0.268123f
r6 28 29 16.3327
r7 26 28 4.572
r8 23 24 16.3327
r9 21 23 4.608
r10 18 19 8.16635
r11 16 18 2.295
r12 10 19 0.618481
r13 10 12 0.00504
r14 7 10 0.09032
r15 5 24 0.0446923
r16 5 6 0.0273909
r17 4 29 0.0468462
r18 4 6 0.0273909
r19 3 7 0.0348197
r20 2 6 0.00965798
r21 2 3 0.597465
.ends

