* File: xor.pex.netlist.pex
* Created: Mon Jun  4 17:31:08 2018
* Program "Calibre xRC"
* Version "v2017.4_19.14"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_XOR%B_ 9 14 21 24 41
c0 36 0 0.895811f
c1 35 0 0.0536748f
c2 34 0 0.0553106f
c3 26 0 0.119581f
c4 21 0 1.42985f
c5 17 0 0.600431f
c6 6 0 0.983348f
c7 5 0 0.080511f
c8 3 0 0.298683f
r9 34 36 0.032945
r10 34 35 8
r11 31 41 0.0358974
r12 30 31 8
r13 26 28 5.17308
r14 26 35 13.2552
r15 21 24 473.25
r16 19 28 4.71363
r17 19 24 70.25
r18 17 41 0.201923
r19 16 17 16.3327
r20 14 16 4.608
r21 12 31 0.640769
r22 11 12 8.16635
r23 9 11 2.304
r24 6 30 1.25053
r25 5 36 1.09532
r26 3 5 0.0367168
r27 2 6 0.0363416
r28 2 3 0.448673
.ends

.subckt PM_XOR%B 12 16 20 23 44
c0 44 0 0.0496319f
c1 41 0 1.17081f
c2 39 0 0.033722f
c3 32 0 0.0463069f
c4 31 0 0.108972f
c5 28 0 0.108607f
c6 20 0 1.53902f
c7 16 0 0.281131f
c8 12 0 0.312848f
c9 7 0 0.0317203f
c10 5 0 0.275549f
c11 3 0 0.0460439f
c12 2 0 0.822923f
r13 39 41 0.0342789
r14 35 44 8
r15 32 39 8
r16 31 33 5.08779
r17 31 32 13.2552
r18 25 28 5.72553
r19 25 44 13.2552
r20 20 23 473.25
r21 18 33 4.70391
r22 18 23 119.75
r23 14 28 4.73303
r24 14 16 112
r25 10 28 4.73303
r26 10 12 121.25
r27 7 41 1.74735
r28 5 7 0.0366288
r29 4 5 0.47125
r30 3 35 0.0334705
r31 2 4 0.0365102
r32 2 3 1.19364
.ends

.subckt PM_XOR%Y 17 18 22 23 30
c0 30 0 0.616403f
c1 26 0 0.100111f
c2 21 0 0.169292f
c3 16 0 0.250126f
c4 13 0 0.509066f
c5 9 0 0.782118f
c6 7 0 0.172806f
r7 26 34 0.0465054
r8 25 26 16.3327
r9 23 25 4.608
r10 22 25 4.572
r11 20 21 8.16635
r12 18 20 2.304
r13 17 20 2.286
r14 16 21 0.0466849
r15 14 16 0.789783
r16 13 34 1.50652
r17 10 30 0.247576
r18 9 10 8
r19 7 14 0.0942576
r20 7 13 0.0942576
r21 7 9 0.33376
.ends

.subckt PM_XOR%A 8 10 14 18 44
c0 35 0 0.0412858f
c1 28 0 0.112939f
c2 26 0 0.0612221f
c3 23 0 0.0535097f
c4 20 0 0.118435f
c5 18 0 0.491033f
c6 14 0 0.11336f
c7 8 0 1.32436f
c8 3 0 0.0302376f
c9 2 0 2.7985f
r10 26 44 0.0192889
r11 26 35 8
r12 25 28 6.12766
r13 25 26 13.2552
r14 23 31 8
r15 22 23 13.2552
r16 20 22 4.52705
r17 16 28 4.73303
r18 16 18 195
r19 12 28 4.73303
r20 12 14 38.25
r21 8 10 473.25
r22 6 20 5.00671
r23 6 8 69.75
r24 3 31 0.0331617
r25 2 35 0.0332917
r26 2 3 5.54667
.ends

.subckt PM_XOR%A_ 17 22 29 33 50
c0 45 0 0.0330101f
c1 39 0 0.036705f
c2 38 0 0.107591f
c3 33 0 0.149855f
c4 29 0 1.01541f
c5 25 0 0.345527f
c6 20 0 0.190352f
c7 13 0 0.0314824f
c8 7 0 0.0425289f
c9 6 0 1.25979f
c10 5 0 0.489492f
c11 2 0 1.53848f
r12 42 45 0.0338248
r13 39 42 8
r14 38 39 13.2552
r15 35 38 5.18936
r16 31 35 4.73303
r17 31 33 46.75
r18 27 35 4.73303
r19 27 29 403
r20 25 50 0.332769
r21 24 25 16.3327
r22 22 24 4.59
r23 19 20 8.16635
r24 17 19 2.295
r25 16 20 0.236205
r26 15 50 0.228846
r27 13 16 0.0362786
r28 13 15 0.0365897
r29 13 14 8
r30 6 14 0.0322421
r31 6 7 2.01955
r32 4 7 0.0352457
r33 4 5 0.952217
r34 2 5 0.0364883
r35 2 45 3.17291
.ends

.subckt PM_XOR%noxref_6 2 3
c0 5 0 0.179193f
r1 3 5 2.304
r2 2 5 2.286
.ends

.subckt PM_XOR%noxref_7 2 3
c0 5 0 0.174385f
r1 3 5 2.304
r2 2 5 2.286
.ends

.subckt PM_XOR%noxref_8 14 19 20 24
c0 33 0 0.0637775f
c1 30 0 0.0333465f
c2 27 0 0.0433527f
c3 23 0 0.0742501f
c4 17 0 0.0372183f
c5 13 0 0.0332371f
c6 11 0 0.0499031f
c7 10 0 0.129266f
c8 9 0 0.0632479f
c9 5 0 0.031038f
c10 4 0 0.185805f
r11 27 37 0.0343797
r12 26 27 16.3327
r13 24 26 4.608
r14 23 34 0.0348205
r15 23 33 0.0351795
r16 22 23 16.3327
r17 20 22 4.608
r18 19 22 4.572
r19 17 30 0.0351795
r20 16 17 16.3327
r21 14 16 4.572
r22 13 37 0.0888462
r23 10 13 0.0397791
r24 10 11 0.223548
r25 9 11 0.0397063
r26 9 34 0.09
r27 6 33 0.0909091
r28 4 6 0.0397063
r29 4 5 0.224677
r30 2 5 0.0395708
r31 2 30 0.0933333
.ends

.subckt PM_XOR%GND 21 29 108 113 114 118
c0 141 0 0.0453873f
c1 121 0 0.198565f
c2 117 0 0.370446f
c3 111 0 0.179737f
c4 106 0 0.00727155f
c5 78 0 8.70622e-19
c6 75 0 0.00152591f
c7 59 0 0.00699972f
c8 27 0 2.23484e-20
c9 24 0 0.567002f
c10 23 0 1.35736e-22
c11 22 0 2.57713f
c12 14 0 0.459588f
c13 11 0 0.0626544f
c14 8 0 0.00493959f
c15 6 0 2.22888f
c16 5 0 0.811096f
r17 120 121 16.3327
r18 118 120 4.59
r19 117 125 0.464154
r20 116 117 16.3327
r21 114 116 4.608
r22 113 116 4.572
r23 110 111 16.3327
r24 108 110 4.572
r25 105 106 16.3327
r26 103 106 0.156279
r27 102 105 18.383
r28 102 103 5.44423
r29 100 103 0.234419
r30 99 102 27.5745
r31 99 100 5.44423
r32 97 100 0.234419
r33 96 99 27.5745
r34 96 97 5.44423
r35 92 97 0.234419
r36 91 92 5.44423
r37 88 91 27.5745
r38 88 89 8.16635
r39 86 89 0.156279
r40 85 88 18.383
r41 85 86 5.44423
r42 82 86 0.234419
r43 81 85 27.5745
r44 81 82 5.44423
r45 78 145 0.0138372
r46 77 78 8.16635
r47 75 145 0.0409366
r48 74 77 9.19149
r49 74 75 16.3327
r50 72 125 0.00973347
r51 72 141 0.0273073
r52 71 74 18.3638
r53 71 72 8.16635
r54 67 141 0.104837
r55 66 67 5.44423
r56 63 67 0.234419
r57 62 66 27.5745
r58 62 63 5.44423
r59 58 59 16.3327
r60 56 59 0.156279
r61 55 58 18.383
r62 55 56 5.44423
r63 53 56 0.234419
r64 52 55 27.5745
r65 52 53 5.44423
r66 50 53 0.234419
r67 49 52 27.5745
r68 49 50 5.44423
r69 45 50 0.234419
r70 44 45 5.44423
r71 42 133 0.0392326
r72 41 44 27.5745
r73 41 42 8.16635
r74 39 130 0.0853335
r75 39 133 0.0853335
r76 38 41 9.19149
r77 38 39 16.3327
r78 35 38 18.383
r79 35 39 5.44423
r80 32 130 0.0893721
r81 31 35 27.5745
r82 31 32 8.16635
r83 29 96 18.383
r84 29 91 9.19149
r85 29 71 9.13404
r86 29 66 9.24894
r87 29 49 18.383
r88 29 44 9.19149
r89 27 89 0.0756977
r90 27 28 0.0273073
r91 26 92 0.0952326
r92 26 28 0.0273073
r93 25 121 0.354667
r94 25 28 0.00973347
r95 23 82 0.10093
r96 23 24 0.035
r97 22 24 1.16118
r98 21 22 0.641204
r99 19 21 0.786976
r100 17 42 0.0755349
r101 17 18 0.0273073
r102 16 45 0.0953953
r103 16 18 0.0273073
r104 15 111 0.354487
r105 15 18 0.00973347
r106 11 75 0.0003892
r107 10 19 0.027042
r108 10 11 0.0813954
r109 9 72 0.0273073
r110 8 75 0.0409366
r111 8 9 0.103372
r112 7 14 0.0438725
r113 6 19 0.017748
r114 6 7 1.26083
r115 5 39 0.0183235
r116 4 14 0.00213949
r117 4 5 0.225909
.ends

.subckt PM_XOR%VDD 13 29 30 31 32 37 42 47
c0 142 0 0.035201f
c1 139 0 0.00202848f
c2 129 0 0.0080775f
c3 77 0 0.0080775f
c4 50 0 0.204342f
c5 45 0 0.32989f
c6 40 0 0.37376f
c7 35 0 0.208938f
c8 24 0 0.958328f
c9 23 0 0.0472961f
c10 18 0 0.338543f
c11 15 0 0.872895f
c12 10 0 3.59436f
c13 9 0 0.116811f
c14 8 0 0.00196015f
c15 6 0 1.79994f
c16 5 0 0.182794f
r17 128 129 8.16635
r18 126 129 0.156279
r19 125 128 18.383
r20 125 126 5.44423
r21 123 126 0.234419
r22 122 125 27.5745
r23 122 123 5.44423
r24 119 123 0.234419
r25 115 116 5.44423
r26 113 116 0.234419
r27 113 150 0.0960465
r28 112 115 27.5745
r29 112 113 5.44423
r30 109 150 0.0266471
r31 108 112 27.5745
r32 108 109 8.16635
r33 104 105 16.3327
r34 102 105 0.156279
r35 102 146 0.133488
r36 101 104 18.383
r37 101 102 5.44423
r38 99 162 0.00973347
r39 99 142 0.0273073
r40 99 146 0.0273073
r41 98 101 18.3638
r42 98 99 16.3327
r43 96 142 0.115419
r44 95 98 18.383
r45 95 96 8.16635
r46 91 96 0.156279
r47 91 143 0.114116
r48 90 91 5.44423
r49 88 160 0.00973347
r50 88 139 0.0273073
r51 88 143 0.0273073
r52 87 90 18.383
r53 87 88 16.3327
r54 85 139 0.134953
r55 85 140 0.049
r56 84 87 18.383
r57 84 85 8.16635
r58 81 140 0.0249431
r59 80 84 18.383
r60 80 81 8.16635
r61 76 77 8.16635
r62 74 77 0.156279
r63 73 76 18.383
r64 73 74 5.44423
r65 71 74 0.234419
r66 70 73 27.5745
r67 70 71 5.44423
r68 67 71 0.234419
r69 63 64 8.16635
r70 61 64 0.156279
r71 61 131 0.0872558
r72 60 63 18.383
r73 60 61 5.44423
r74 58 131 0.0446231
r75 57 60 27.5745
r76 57 58 8.16635
r77 53 57 9.19149
r78 53 58 16.3327
r79 49 50 8.16635
r80 47 49 2.295
r81 45 162 0.657821
r82 44 45 8.16635
r83 42 44 2.304
r84 40 160 0.657821
r85 39 40 8.16635
r86 37 39 2.286
r87 34 35 8.16635
r88 32 34 2.286
r89 31 122 27.5745
r90 31 115 27.5745
r91 31 119 5.44423
r92 30 95 9.19149
r93 30 90 9.19149
r94 29 70 27.5745
r95 29 63 27.5745
r96 29 67 5.44423
r97 27 116 0.0805814
r98 27 28 0.0273073
r99 26 119 0.0903488
r100 26 28 0.0273073
r101 25 50 0.401872
r102 25 28 0.00973347
r103 21 64 0.0804186
r104 21 22 0.0273073
r105 20 67 0.0905116
r106 20 22 0.0273073
r107 19 35 0.402051
r108 19 22 0.00973347
r109 15 24 0.0159144
r110 14 109 0.0174417
r111 14 15 0.840864
r112 11 23 0.0195705
r113 11 13 1.46473
r114 10 24 0.0212114
r115 10 13 0.718452
r116 9 23 0.0178619
r117 8 81 0.0178492
r118 8 9 0.12723
r119 7 18 0.0367774
r120 6 23 0.0195705
r121 6 7 1.12439
r122 5 18 0.00231121
r123 4 58 0.0137638
r124 4 5 0.0769551
.ends

